US09371319B2
Preparation 135: 3-((6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridin-1-yl)methyl)-5-methylisoxazole
To a stirred solution of 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22, 0.060 g, 0.217) in anhydrous DMF (0.8 mL) was added sodium hydride 60% (0.013 g, 7.8 mg, 0.325 mmol). The reaction mixture was stirred at room temperature for 5 minutes under argon, then a solution of 3-(bromomethyl)-5-methylisoxazole (0.057 g, 0.325 mmol) in anhydrous DMF (0.3 mL) was added. The stirring was continued at room temp for 1 hour and 50 minutes. The reaction mixture was diluted with ethyl acetate (40 mL) and the solution was washed with water (10 mL), brine (2×10 mL), dried (Na2SO4) and concentrated in vacuo. The residue was purified using preparative TLC eluting with 20% ethyl acetate in CH2Cl2. The product band was recovered and stirred with 5% MeOH in ethyl acetate. The silica was removed by filtration, washed with 5% MeOH in EtOAc (2×5 mL), acetone (2×8 mL). The title compound was obtained as an off-white solid (0.065 g, 80%). 1H-NMR (500 MHz, DMSO-d6) 2.31 (s, 3H), 3.89 (s, 3H), 5.58 (s, 2H), 5.89 (s, 1H), 6.75 (s, 1H), 7.78 (s, 1H), 7.83 (s, 1H), 8.12 (s, 1H), 8.57 (s, 1H).

reactant | 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.060 g | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | sodium hydride | 0.325 mmol, 0.013 g | [H-].[Na+]
reactant | 3-(bromomethyl)-5-methylisoxazole | 0.325 mmol, 0.057 g | BrCC1=NOC(=C1)C | C5H6BrNO
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 3-((6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridin-1-yl)methyl)-5-methylisoxazole | BrC1=CC2=C(C=N1)C=C(N2CC2=NOC(=C2)C)C=2C=NN(C2)C | C16H14BrN5O
